datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:10]1CCCCC1.O=[N+]([O-])C1=CC=C([N:31]=[C:20]=[S:21])C=C1>>C[N+:10]1([C:20]([S-:21])=[N:31]C2=CC=C([N+](=O)[O-])C=C2)CCCCC1 10=20;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C)[CH:73]=[CH:72]2)[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21>>C[C:13]1=[O+:14][CH:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC1=CC=C([S:61]([NH-:10])(=[O:62])=[O:63])C=C1>>CC1=CC=C([S:61]([NH:10][CH:20]([N:21]2CCCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)(=[O:62])=[O:63])C=C1 10=20;20,21=21"
"CC[O:72][C:61]([C:10](=[C:11](C)[O-:12])[C:81](=[O:82])[O:92]CC)=[O:62].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CC[O:72][C:61]([C:10]([C:11](C)=[O:12])([CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:81](=[O:82])[O:92]CC)=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2.CO[C:94]1=[CH:93][CH:92]=[C:91]([C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([CH:20]([CH:21]=[CH:22][N:23]3C(CC4=CC=CC=C4)C(=O)N(C)C34CCCC4)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1 10=20;20,21=21,22;22,23=23"
"C[N:12]1[C:11](=[CH2:10])[N:61](C)[C:64]2=[C:63]1C=CC=C2.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:31]3([CH2:20][CH2:10][C:11]4=[N+:12](C)[C:63]5=[C:64](C=CC=C5)[N:61]4C)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])=[CH:62]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][C:63](Cl)=[CH:64][CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([CH:20]=[O:21])C=C1.CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C:10](C)(C3=CC=CC=C3)[CH:20](C3=CC=CC=C3)[O-:21])=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20;20,21=21"
"C1=CC=C(/[C:11](=[CH:10]/[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[O-:12])C=C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C[C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>C[C:61]([CH:10]([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:81](C1=CC=CC=C1)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH:11]1[H:10]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1.C[C:62]1=[C:63]([CH3:84])[CH2:64][C:73]([CH3:94])=[C:72](C)[CH+:11]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=C[C:61]2=[C:62](C=C1)[NH:12][N:11]=[N:10]2.C[N:43]1[C:22](=[O:23])[CH:21]=[CH:20][C:31]1=[O:32]>>C[N:43]1[C:22]([O-:23])=[CH:21][CH:20]([N:10]2[N:11]=[NH+:12][C:62]3=[C:61]2C=CC=C3)[C:31]1=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72].C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23]>>CC[O:82][C:71]([CH:10]([CH2:20][CH:21]=[C:22]([O-:23])[N:33](C)C)[S+:61](C)C)=[O:72] 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])CCO1.C[C:11](=[CH2:10])[C:62](C)=[CH2:63]>>C[C+:11]([CH2:10][C:20]1([O-:21])CCOCC1)[C:62](C)=[CH2:63] 10,11=10,20;20,21=21"
